US08633173B2
[8-(2-Fluoro-3-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine was prepared from 4-{4-[8-(2-fluoro-3-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester (0.312 g, 0.603 mmol) and trifluoroacetic acid (1 mL) in a manner analogous to Example 312 to give product (0.248 g, 98%). MP=98-101° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.61 (s, 1H), 8.83 (d, 1H), 7.60 (m, 3H), 7.25 (m, 3H), 7.10 (m, 3H), 3.90 (s, 3H), 3.05 (m, 2H), 2.55 (br m, 4H), 1.65 (m, 2H), 1.45 (m, 2H). MS=418 (MH)+.

reactant | 4-{4-[8-(2-fluoro-3-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidine-1-carboxylic acid tert-butyl ester | 0.603 mmol, 0.312 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC1=NN2C(C(=CC=C2)C2=C(C(=CC=C2)OC)F)=N1 | C29H32FN5O3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | [8-(2-Fluoro-3-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine | FC1=C(C=CC=C1OC)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCNCC2 | C24H24FN5O
